Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.7495010010800005
[H:11].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9][H:10]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])[H:11],-4.36671928772
[C:11]([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-6.4582361415
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14]>>[H:12].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:13][H:14],3.7415414385400014
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:9].[O:8]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7](=[O:8])[H:9],-5.71098975674
[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8][O:9][C:10]([H:11])[H:12].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12],-2.7900480276
[C:4]([H:5])[H:6].[H:1][O:2][C:3]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.58271083137
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][C:13]([H:14])([H:15])[H:16],6.56986784
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2](=[O:3])[C:12]([H:13])([H:14])[H:15],1.49521798601
[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:3]=[O:4].[O:1]([C:2][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[H:5],1.86413857931
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7].[O:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][H:9],-6.40902942983
[C:4]([H:5])[H:6].[O:1]=[C:2]([C:3][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-7.780425965960001
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],1.43498419391
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:4]=[C:5]([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[O:11][H:12],5.405980027409999
[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-10.5830894685
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],0.285804760979
[H:11].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],-4.62631743388
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.58537259953
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2],5.55717573475
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7],4.3914456967
[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]=[C:2]([H:3])[H:4].[C:5](=[O:6])[C:7]([H:8])([H:9])[O:10][H:11],0.8114728707109999
[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.34275719355
[H:13].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.4118463206800005
[H:3].[O:1]=[C:2][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.96349692571
[C:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]1([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],0.0530017213696
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],5.05378485637
